US06620826B2
a) 2,4-Dimethoxynitrobenzene
To a solution of sodium methoxide in methanol (freshly prepared by adding 50.0 g (2.17 mol) of sodium, in portions, to 1.5 l of methanol at 0° C.) was added 2,4-dichloro-nitrobenzene (95.0 g, 0.495 mol) in methanol (100 ml). After refluxing for 3 days, the reaction mixture was cooled in an ice bath and filtered, the precipitate was washed with water and dried (Na2SO4). The title compound was collected as a yellow solid (83.0 g, 91%).

reactant | sodium methoxide | C[O-].[Na+]
reactant | sodium | 2.17 mol, 50.0 g | [Na] | Na
reactant | 2,4-dichloro-nitrobenzene | 0.495 mol, 95.0 g | ClC1=C(C=CC(=C1)Cl)[N+](=O)[O-] | C6H3Cl2NO2
reactant | methanol | CO | CH4O
reactant | methanol | 100 ml | CO | CH4O
reactant | methanol | 1.5 l | CO | CH4O
product | 2,4-Dimethoxynitrobenzene | COC1=C(C=CC(=C1)OC)[N+](=O)[O-] | C8H9NO4
